US07163936B2
To a solution of allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (270 mg, 0.49 mmol) in dichloromethane (10 ml) were added acetic acid (73 μl) and tributyltin hydride (1.23 ml, 4.6 mmol) and added at room temperature bis(triphenylphosphine)palladium chloride(II) (36 mg, 0.051 mmol). Ten minutes later the reaction mixture was poured into a mixture of ice (log) and phosphate buffer (pH7.0, 10 ml). After separation of the mixture with a separating funnel, the organic layer was extracted twice with water and the aqueous layer was washed twice with dichloromethane (3 ml). The organic solvent in the aqueous layer was evaporated under reduced pressure, and the residue was purified by polymer chromatography (CHP-20P). The fractions eluted with 3–5% aqueous THF solution were combined and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-({4-[(6S)-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (151.5 mg) as a white amorphous.

reactant | allyl (4R,5S,6S)-3-[(4-{(6S)-1-[(allyloxy)carbonyl]-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl}-1,3-thiazol-2-yl)sulfanyl]-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.49 mmol, 270 mg | C(C=C)OC(=O)N1CCC(=C[C@@H]1C)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C | C26H31N3O6S2
reactant | acetic acid | 73 μl | C(C)(=O)O | C2H4O2
reactant | tributyltin hydride | 4.6 mmol, 1.23 ml | C(CCC)[SnH](CCCC)CCCC
reactant | phosphate | 10 ml, pH7.0 | P(=O)([O-])([O-])[O-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-({4-[(6S)-6-methyl-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 151.5 mg | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)SC=1SC=C(N1)C=1CCN[C@H](C1)C)C | C19H23N3O4S2
